US04948794
A solution of 3.7 g (20.4 mmol) N-methyl-5-methoxy-2-nitroaniline in 700 ml ethanol was added 7.4 ml 4N hydrochloric acid, and then hydrogenated at atm. pressure by using 5% Pd-C (0.5 g) as a catalyst. The reaction mixture was filtered and evaporated in vacuo to give 2-amino-5-methoxy-N-methylaniline as crystals.

reactant | N-methyl-5-methoxy-2-nitroaniline | 20.4 mmol, 3.7 g | CNC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C8H10N2O3
reactant | hydrochloric acid | 4N, 7.4 ml | Cl | ClH
solvent | ethanol | 700 ml | C(C)O | C2H6O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 2-amino-5-methoxy-N-methylaniline | NC1=C(NC)C=C(C=C1)OC | C8H12N2O
